US06770617B2
(a″-1) was synthesized by a dehydrating esterification reaction between oleic acid and N-hydroxyethyl-N,N-dimethylamine. Specifically, a four-neck flask equipped with a stirrer, a temperature gage and a dewatering pipe was charged with 132 g of N-hydroxyethyl-N,N-dimethylamine and 400 g of oleic acid and the mixture was raised to 150° C. The mixture was heated under stirring at this temperature for 4 hours while distilling generated water. The resulting mixture was raised to 180° C. and continuously heated with stirring for 10 hours while 66 g of 2-dimethylaminoethanol was added dropwise. After that, the reaction mixture was cooled to 120° C., unreacted amine was distilled under reduced pressure and the reaction mixture was subjected to distillation to obtain 350 g of the target N-oleoyloxyethyl-N,N-dimethylamine (a″-1).

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | N-hydroxyethyl-N,N-dimethylamine | OCCN(C)C | C4H11NO
reactant | N-hydroxyethyl-N,N-dimethylamine | 132 g | OCCN(C)C | C4H11NO
reactant | oleic acid | 400 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
product | N-oleoyloxyethyl-N,N-dimethylamine | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCCN(C)C | C22H43NO2
